US04030925
34. 1-{4-[2-(4-Chlorobenzoyl)hydrazino]phenyl}-3-phenylthiourea (NA-30)
1-(Chlorobenzoyl)-2-(4-aminophenyl)hydrazine hydrochloride (2.0 g, 0.0067 mole) was mixed with ethanol (125 ml) and water (25 ml). Phenyl isothiocyanate (1.1 g, 0.01 mole) was added to the mixture along with sodium acetate (0.82 g, 0.01 mole) in water (10 ml). The reaction mixture was stirred and refluxed for 5 minutes, then was stirred at room temperature for one and one half hours. The mixture was chilled in ice and then filtered. The product was washed with ethanol and dried to give an off-white solid. Yield 1.9 g (71%), m.p. 197.5°-199° C.

reactant | 1-(Chlorobenzoyl)-2-(4-aminophenyl)hydrazine hydrochloride | 0.0067 mole, 2.0 g | Cl.ClC1=C(C(=O)NNC2=CC=C(C=C2)N)C=CC=C1
reactant | ethanol | 125 ml | C(C)O | C2H6O
reactant | Phenyl isothiocyanate | 0.01 mole, 1.1 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | sodium acetate | 0.01 mole, 0.82 g | C(C)(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 1-{4-[2-(4-Chlorobenzoyl)hydrazino]phenyl}-3-phenylthiourea | ClC1=CC=C(C(=O)NNC2=CC=C(C=C2)NC(=S)NC2=CC=CC=C2)C=C1 | C20H17ClN4OS
